US05104890
A solution of trans-3,4-dihydro-3-hydroxy-4-(1,1-dioxoisothiazolidin-2-yl)-6-mesyl-2,2-dimethyl-2H-1-benzopyran (0.32 g) in pyridine (10 ml) was treated with acetic anhydride (5 ml), and the mixture was stood at room temperature overnight. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed successively with 1N hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and brine, and then dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure gave the crude product, which was purified by recrystallization from ethyl acetate to give 4-(1,1-dioxoisothiazolidin-2-yl)-6-mesyl-2,2-dimethyl-2H-1-benzopyran (0.14 g).

reactant | trans-3,4-dihydro-3-hydroxy-4-(1,1-dioxoisothiazolidin-2-yl)-6-mesyl-2,2-dimethyl-2H-1-benzopyran | 0.32 g | O[C@@H]1C(OC2=C([C@H]1N1S(CCC1)(=O)=O)C=C(C=C2)S(=O)(=O)C)(C)C | C15H21NO6S2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(1,1-dioxoisothiazolidin-2-yl)-6-mesyl-2,2-dimethyl-2H-1-benzopyran | 0.14 g | O=S1(N(CCC1)C1=CC(OC2=C1C=C(C=C2)S(=O)(=O)C)(C)C)=O | C15H19NO5S2
